* Z:\mnt\design.r\spice\examples\1534-1.asc
L1 N012 0 25n Rser=0.02 Rpar=5000
D1 N001 OUT MBRS340
R1 OUT N011 7.5K
R2 N011 0 2.49K
R3 N005 0 16.9K
R4 N008 N007 6.8K
R5 N006 0 24K
R6 N009 0 24K
C1 N004 0 3300p
C2 N008 0 220p
C3 N007 0 .015µ
V1 IN 0 3.3
L2 IN N001 50µ Rser=0.02 Rpar=5000
C4 OUT 0 200µ Rser=0.05
R7 N001 N003 10
C6 N003 0 1000p
XU1 MP_01 N001 MP_02 MP_03 N004 N005 N011 N010 0 N008 N002 N009 N006 IN MP_04 N012 LT1534-1
Rload OUT 0 50
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
.lib LT1534-1.sub
.backanno
.end
